US09120749B2
1-(4-((trans-4-aminocyclohexyl)amino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)butan-1-one
To a suspension of tert-butyl (trans-4-((3-butyryl-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-4-yl)amino)cyclohexyl)carbamate (36 mg, 0.063 mmol) in THF (3 mL) was added water (2 mL) and 6N aqueous HCl (2 mL). The resultant solution was heated at 65° C. for 4 h. The reaction mixture was cooled and concentrated. The resultant residue was triturated with diethyl ether. The residue was eluted through an ion-exchange column (using methanol and 7 N methanol in ammonia) to obtain the desired product (22 mg, 75%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 8.96 (s, 1H), 8.34 (d, J=2.0 Hz, 1H), 8.02 (dd, J=8.7, 2.0 Hz, 1H), 7.90 (d, J=8.7 Hz, 1H), 7.28 (d, J=2.1 Hz, 1H), 7.20 (d, J=2.1 Hz, 2H), 4.24-4.18 (m, 1H), 3.98 (s, 3H), 3.11-3.00 (m, 3H), 2.37 (d, J=12.9 Hz, 2H), 2.10 (d, J=12.2 Hz, 2H), 1.84-1.74 (m, J=7.4 Hz, 2H), 1.71-1.65 (m, J=12.6 Hz, 2H), 1.49-1.43 (m, 2H), 1.04 (t, J=7.4 Hz, 3H). ESI MS m/z 468 [C26H30ClN3O3+H]+; HPLC>99% (AUC), tR=10.17 min.

reactant | tert-butyl (trans-4-((3-butyryl-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-4-yl)amino)cyclohexyl)carbamate | 0.063 mmol, 36 mg | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)OC)O)Cl | C31H38ClN3O5
reactant | water | 2 mL | O | H2O
reactant | HCl | 6N, 2 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(4-((trans-4-aminocyclohexyl)amino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)butan-1-one | 22 mg, 75% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)OC)O)Cl)C(CCC)=O | C26H30ClN3O3
